US05602134
A mixture of ethyl 5-(3-formyl-4-nitrophenoxy)pentanoate (0.60 mol) and (4,5-di-hydro-2-hydroxy-5-oxo-1H-pyrrol-3-yl)triphenylphosphonium, hydroxide, inner salt (0.57 mol) in ethanol (1500 ml) was stirred and refluxed for 1 hour. The solvent was removed. The residue was stirred in methylbenzene. The resulting precipitate was filtered off, washed with methylbenzene, 2,2'-oxybispropane and dried, yielding 137.3 g (61%) of (E)-ethyl 5-[3-[(2,5-dioxo-3-pyrrolidinylidene)methyl]-4-nitrophenoxy]pentanoate; mp. 112.4° C. (interm. 1).

reactant | ethyl 5-(3-formyl-4-nitrophenoxy)pentanoate | 0.60 mol | C(=O)C=1C=C(OCCCCC(=O)OCC)C=CC1[N+](=O)[O-] | C14H17NO6
reactant | (4,5-di-hydro-2-hydroxy-5-oxo-1H-pyrrol-3-yl)triphenylphosphonium | OC=1NC(CC1[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | hydroxide | [OH-]
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | (E)-ethyl 5-[3-[(2,5-dioxo-3-pyrrolidinylidene)methyl]-4-nitrophenoxy]pentanoate | 137.3 g, 61% | O=C\1NC(C/C1=C\C=1C=C(OCCCCC(=O)OCC)C=CC1[N+](=O)[O-])=O | C18H20N2O7
